US05157134
K. [1R-(1α,2α,4α,6%)]-2-Ethenyl-6-methyl-7-oxabicyclo[2.2.1]heptane-1-methanol
A suspension of methyltriphenylphosphonium bromide (12.24 g, 34.3 mmole) in dry tetrahydrofuran (83 mL) was cooled down to -78° C. (dry ice-acetone) under argon, treated with 1.6M n-butyllithium (18.8 mL, 30.2 mmole, 3.9 eq.) in hexane and stirred at -78° C. for 30 minutes and at 0° (ice water) for 1.0 hour. The reaction mixture was then treated with a solution of Part J compound (1.32 g, 7.76 mmole) in dry tetrahydrofuran (34 mL), stirred at 0° for 30 minutes, allowed to warm up to room temperature and stirred for another 20 hours. The mixture was quenched with 25% NH4Cl (13.9 mL) and the thick aqueous slurry was extracted with ethyl acetate (3×150 mL). The combined organic extracts were dried (anhydrous MgSO4), filtered and evaporated to dryness. The crude product was chromatographed on a silica gel column (Baker, 60-200 mesh, 400 mL), eluting the column with EtOAc:Hexane (1:3) to give title compound as a colorless oil (1.25 g, 95.7%).

reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | n-butyllithium | 30.2 mmole, 1.6M, 18.8 mL, 3.9 eq. | C(CCC)[Li]
reactant | tetrahydrofuran | 83 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 34 mL | O1CCCC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | 34.3 mmole, 12.24 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | hexane | CCCCCC | C6H14
product | 2-Ethenyl-6-methyl-7-oxabicyclo[2.2.1]heptane-1-methanol | 1.25 g, 95.7% | C(=C)C1C2(C(CC(C1)O2)C)CO | C10H16O2
